US07049342B2
Ethyl 3-(3-amino-4-methoxyphenyl)-2-methoxypropanoate
Next, ethyl 2-ethyl-3-(4-methoxy-3-nitrophenyl)acrylate (4.50 g, 16.0 mmol), 10% palladium on carbon (1.50 g) and a 1:1 mixed solvent (150 mL) of tetrahydrofuran with ethanol were mixed and hydrogenation was carried out at an initial pressure of 294.3 kPa at room temperature. After completion of the reaction, the catalyst was removed by filtration and the filtrate was concentrated to afford 3.84 g (95%) of the title compound as colorless crystals.

reactant | ethyl 2-ethyl-3-(4-methoxy-3-nitrophenyl)acrylate | 16.0 mmol, 4.50 g | C(C)C(C(=O)OCC)=CC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C14H17NO5
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 1.50 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3-(3-amino-4-methoxyphenyl)-2-methoxypropanoate | 3.84 g, 95% | NC=1C=C(C=CC1OC)CC(C(=O)OCC)OC | C13H19NO4
